*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-601_freq port1 port2 PARAMS: Cpar=4pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=71
+ R2=0.00135
+ C= {Cpar}
+ K1=0.00009
+ K2=0.117
+ K3= {Ind}
+ K4=0.00263
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=759.074069
.ends SER2012-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-601_imp port1 port2 PARAMS: Cpar=3.89pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=71
+ R2=0.00135
+ C= {Cpar}
+ K1=0.00009
+ K2=0.117
+ K3= {Ind}
+ K4=0.00263
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=759.074069
.ends SER2012-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-681_freq port1 port2 PARAMS: Cpar=5.1pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=73
+ R2=0.00135
+ C= {Cpar}
+ K1=0.0001
+ K2=0.14
+ K3= {Ind}
+ K4=0.00263
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=758.211954
.ends SER2012-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-681_imp port1 port2 PARAMS: Cpar=4.97pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=73
+ R2=0.00135
+ C= {Cpar}
+ K1=0.0001
+ K2=0.14
+ K3= {Ind}
+ K4=0.00263
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=758.211954
.ends SER2012-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-801_freq port1 port2 PARAMS: Cpar=4.96pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=97
+ R2=0.00135
+ C= {Cpar}
+ K1=0.00011
+ K2=0.158
+ K3= {Ind}
+ K4=0.000743
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=774.252355
.ends SER2012-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-801_imp port1 port2 PARAMS: Cpar=4.94pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=97
+ R2=0.00135
+ C= {Cpar}
+ K1=0.00011
+ K2=0.158
+ K3= {Ind}
+ K4=0.000743
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=774.252355
.ends SER2012-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-901_freq port1 port2 PARAMS: Cpar=4.2pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=160
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000128
+ K2=0.174
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=751.559731
.ends SER2012-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-901_imp port1 port2 PARAMS: Cpar=4.18pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=160
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000128
+ K2=0.174
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=751.559731
.ends SER2012-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-102_freq port1 port2 PARAMS: Cpar=6.1pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=94
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000098
+ K2=0.184
+ K3= {Ind}
+ K4=0.00621
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=801.609318
.ends SER2012-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-102_imp port1 port2 PARAMS: Cpar=5.86pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=94
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000098
+ K2=0.184
+ K3= {Ind}
+ K4=0.00621
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=801.609318
.ends SER2012-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-122_freq port1 port2 PARAMS: Cpar=5.45pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000123
+ K2=0.206
+ K3= {Ind}
+ K4=0.00466
+ K5=0.00000625
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=790.979816
.ends SER2012-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-122_imp port1 port2 PARAMS: Cpar=5.32pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000123
+ K2=0.206
+ K3= {Ind}
+ K4=0.00466
+ K5=0.00000625
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=790.979816
.ends SER2012-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2012-202_freq port1 port2 PARAMS: Cpar=6.4pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000125
+ K2=0.256
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=843.641455
.ends SER2012-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2012-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2012-202_imp port1 port2 PARAMS: Cpar=6.22pF Ind=2uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000125
+ K2=0.256
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=843.641455
.ends SER2012-202_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
