*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-681_freq port1 port2 PARAMS: Cpar=4.58pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.0016
+ C= {Cpar}
+ K1=0.0001
+ K2=0.17
+ K3= {Ind}
+ K4=0.00263
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1075.92978
.ends SER2013-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-681_imp port1 port2 PARAMS: Cpar=4.46pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=45
+ R2=0.0016
+ C= {Cpar}
+ K1=0.0001
+ K2=0.17
+ K3= {Ind}
+ K4=0.00263
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1075.92978
.ends SER2013-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-801_freq port1 port2 PARAMS: Cpar=4.9pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00011
+ K2=0.186
+ K3= {Ind}
+ K4=0.005
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1024.69069
.ends SER2013-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-801_imp port1 port2 PARAMS: Cpar=4.70pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00011
+ K2=0.186
+ K3= {Ind}
+ K4=0.005
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1024.69069
.ends SER2013-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-901_freq port1 port2 PARAMS: Cpar=5.01pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00019
+ K2=0.2
+ K3= {Ind}
+ K4=0.00751
+ K5=0.00000776
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1047.96367
.ends SER2013-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-901_imp port1 port2 PARAMS: Cpar=4.74pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00019
+ K2=0.2
+ K3= {Ind}
+ K4=0.00751
+ K5=0.00000776
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1047.96367
.ends SER2013-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-102_freq port1 port2 PARAMS: Cpar=5.13pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=82
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00017
+ K2=0.218
+ K3= {Ind}
+ K4=0.00319
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1031.42455
.ends SER2013-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-102_imp port1 port2 PARAMS: Cpar=5.03pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=82
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00017
+ K2=0.218
+ K3= {Ind}
+ K4=0.00319
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1031.42455
.ends SER2013-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-122_freq port1 port2 PARAMS: Cpar=5.45pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=77
+ R2=0.0016
+ C= {Cpar}
+ K1=0.000123
+ K2=0.226
+ K3= {Ind}
+ K4=0.00466
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1095.84479
.ends SER2013-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-122_imp port1 port2 PARAMS: Cpar=5.32pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=77
+ R2=0.0016
+ C= {Cpar}
+ K1=0.000123
+ K2=0.226
+ K3= {Ind}
+ K4=0.00466
+ K5=0.0000075
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1095.84479
.ends SER2013-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2013-202_freq port1 port2 PARAMS: Cpar=5.83pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=145
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00026
+ K2=0.305
+ K3= {Ind}
+ K4=0.01
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1114.48088
.ends SER2013-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2013-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2013-202_imp port1 port2 PARAMS: Cpar=5.66pF Ind=2uH
X1 port1 port2 Model1D PARAMS:
+ R1=145
+ R2=0.0016
+ C= {Cpar}
+ K1=0.00026
+ K2=0.305
+ K3= {Ind}
+ K4=0.01
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1114.48088
.ends SER2013-202_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
